US07777038B2
5-Trifluoromethanesulfonyloxy-3,4-dihydro-1H-quinolin-2-one (1.5 g), zinc cyanide (1.3 g) and tetrakis(triphenylphosphine)palladium (0.59 g) were suspended in DMF (20 ml), and the suspension was stirred at 100° C. for 2 hours. The insoluble matter was filtered off, and ethyl acetate was added to the filtrate, followed by washing with water. The resulting mixture was dried over anhydrous magnesium sulfate, and concentrated under reduced pressure, and the residue was recrystallized from an ethyl acetate-diethyl ether mixed solvent to thereby obtain 0.71 g (yield: 81%) of 5-cyano-3,4-dihydro-1H-quinolin-2-one as a light brown powder.

reactant | 5-Trifluoromethanesulfonyloxy-3,4-dihydro-1H-quinolin-2-one | 1.5 g | FC(S(=O)(=O)OC1=C2CCC(NC2=CC=C1)=O)(F)F | C10H8F3NO4S
reactant | DMF | 20 ml | CN(C)C=O | C3H7NO
catalyst | zinc cyanide | 1.3 g | [C-]#N.[Zn+2].[C-]#N
catalyst | tetrakis(triphenylphosphine)palladium | 0.59 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-cyano-3,4-dihydro-1H-quinolin-2-one | 0.71 g, yield: 81% | C(#N)C1=C2CCC(NC2=CC=C1)=O | C10H8N2O
